US06204264B1
3-(2-Heptadecyl-5-methyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine monohydrochloride (Compound 24)
4N Hydrochloric acid/ethyl acetate solution (0.28 ml) was added to a solution containing 3-(2-heptadecyl-5-methyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine (0.34 g) in ethyl acetate (5 ml). After being stirred for 10 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with a mixed solution of ethanol-ethyl acetate, thereby yielding the entitled compound (0.304 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.28 ml | Cl.C(C)(=O)OCC
reactant | 3-(2-heptadecyl-5-methyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine | 0.34 g | C(CCCCCCCCCCCCCCCC)C1=NC2=C(N1CCCN(C)C)C=CC(=C2)C | C30H53N3
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-Heptadecyl-5-methyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-propanamine monohydrochloride | 0.304 g | Cl.C(CCCCCCCCCCCCCCCC)C1=NC2=C(N1CCCN(C)C)C=CC(=C2)C | InChI=1S/C30H53N3.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-21-30-31-28-26-27(2)22-23-29(28)33(30)25-20-24-32(3)4;/h22-23,26H,5-21,24-25H2,1-4H3;1H
